US06887875B2
MCPBA (78.26 g, 0.349 mol) is added to a solution of 2-(2-methoxy-4-trifluoromethoxy-phenyl)-3-methyl-5-nitro-pyridine (95.6 g, 0.291 mol) in CH2Cl2 (500 ml) at room temperature. The mixture is stirred at room temperature for 3 hours. (1.2 L) and hexane (300 ml) and the mixture is washed with saturated aqueous Na2CO3 and brine. After drying over Na2SO4, the solvent is removed under reduced pressure to give 2-(2methoxy-4-trifluoromethoxy-phenyl)-3-methyl-5-nitro-pyridine 1-oxide as yellow solid. Rf (hexane/EtOAc=1:1)=0.40.

reactant | MCPBA | 0.349 mol, 78.26 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 2-(2-methoxy-4-trifluoromethoxy-phenyl)-3-methyl-5-nitro-pyridine | 0.291 mol, 95.6 g | COC1=C(C=CC(=C1)OC(F)(F)F)C1=NC=C(C=C1C)[N+](=O)[O-] | C14H11F3N2O4
solvent | CH2Cl2 | 500 ml | C(Cl)Cl | CH2Cl2
product | 2-(2methoxy-4-trifluoromethoxy-phenyl)-3-methyl-5-nitro-pyridine 1-oxide | COC1=C(C=CC(=C1)OC(F)(F)F)C1=[N+](C=C(C=C1C)[N+](=O)[O-])[O-] | C14H11F3N2O5
